US08685970B2
A mixture of methyl 2-amino-3-(aminomethyl)benzoate (5.0 g, 27.7 mmol), nicotinaldehyde (3.0 g, 27.7 mmol) and acetic acid (2.0 mL) in dioxane (50 mL) was stirred in the microwave for 20 minutes. The solvent was removed in vacuo and the residue was purified by chromatography on silica gel (10% methanol in CH2Cl2) to give methyl 2-(pyridin-3-yl)-1,2,3,4-tetrahydroquinazoline-8-carboxylate (4.0 g, 53% yield).

reactant | methyl 2-amino-3-(aminomethyl)benzoate | 27.7 mmol, 5.0 g | NC1=C(C(=O)OC)C=CC=C1CN | C9H12N2O2
reactant | nicotinaldehyde | 27.7 mmol, 3.0 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | methyl 2-(pyridin-3-yl)-1,2,3,4-tetrahydroquinazoline-8-carboxylate | 4.0 g, 53% yield | N1=CC(=CC=C1)C1NC2=C(C=CC=C2CN1)C(=O)OC | C15H15N3O2
